US07220759B2
In the same manner as in the method described in Tetrahedron Lett., Vol. 32, No. 30, pp. 3727–3730 (1991), ethyl 5-ethyl-3-methylpyrrolidine-2-carboxylate hydrochloride is obtained. In the same manner as in Example 1b (a) and using ethyl 5-ethyl-3-methylpyrrolidine-2-carboxylate hydrochloride, ethyl 1-tert-butoxycarbonyl-5-ethyl-3-methylpyrrolidine-2-carboxylate is obtained. In the same manner as in Example 1b (b) and using ethyl 1-tert-butoxycarbonyl-5-ethyl-3-methylpyrrolidine-2-carboxylate, 1-tert-butoxycarbonyl-5-ethyl-2-hydroxymethyl-3-methylpyrrolidine is obtained. In the same manner as in Example 1b (c) and using 1-tert-butoxycarbonyl-5-ethyl-2-hydroxymethyl-3-methylpyrrolidine, 5-ethyl-2-hydroxymethyl-3-methylpyrrolidine hydrochloride is obtained. In the same manner as in Example 1b (d) and using 5-ethyl-2-hydroxymethyl-3-methylpyrrolidine hydrochloride, 3-(5-ethyl-2-hydroxymethyl-3-methylpyrrolidin-1-yl)propionitrile is obtained. In the same manner as in Example 1b (e) and using 3-(5-ethyl-2-hydroxymethyl-3-methylpyrrolidin-1-yl)propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-[2-(5-ethyl-2-hydroxymethyl-3-methylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 3-(5-ethyl-2-hydroxymethyl-3-methylpyrrolidin-1-yl)propionitrile | C(C)C1CC(C(N1CCC#N)CO)C | C11H20N2O
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-[2-(5-ethyl-2-hydroxymethyl-3-methylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | C(C)C1CC(C(N1CCC=1NC(C2=CC=CC(=C2C1)C)=O)CO)C | C20H28N2O2
